US07358408B2
20.0 g of 4-Hydroxy-3,5-dimethyl phenyl dimethyl sulphonium nonaflate was taken in a round bottom flask, 50 ml acetone and 5.73 g of potassium carbonate were added and then 4.23 g of acetic anhydride was added dropwise at room temperature. The resulting mixture was stirred for 4 hours. The solution was then extracted with chloroform, washed with water, dried over sodium sulphate and filtered. The solution was concentrated and drowned into ether; a precipitate was formed, filtered and dried in the vacuum dryer at less than 40° C., yielding 4-acetoxy-3,5-dimethyl phenyl dimethyl sulphonium nonaflate, 15.0 g (70%). The solid product gave the following analytical results: 1H NMR (DMSO-d6), 2.35 (s, 6H, 2CH3); 2.45 (s, 3h, CH3); 3.5 (s, 6H, 2CH3); 7.80 (s, 2H, aromatic), mp 168° C.

reactant | 4-Hydroxy-3,5-dimethyl phenyl dimethyl sulphonium nonaflate | 20.0 g | S(=O)(=O)([O-])C(F)(F)C(F)(F)C(F)(F)C(F)(F)F.OC1=C(C=C(C=C1C)[S+](C)C)C
reactant | potassium carbonate | 5.73 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetic anhydride | 4.23 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-acetoxy-3,5-dimethyl phenyl dimethyl sulphonium nonaflate | S(=O)(=O)([O-])C(F)(F)C(F)(F)C(F)(F)C(F)(F)F.C(C)(=O)OC1=C(C=C(C=C1C)[S+](C)C)C | InChI=1S/C12H17O2S.C4HF9O3S/c1-8-6-11(15(4)5)7-9(2)12(8)14-10(3)13;5-1(6,3(9,10)11)2(7,8)4(12,13)17(14,15)16/h6-7H,1-5H3;(H,14,15,16)/q+1;/p-1
